US04880817
3-Diethylcarbamyloxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline (27)
To a slurry of 3-hydroxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline (1.90 g, 7.19 mmol) in methylene chloride (100 mL) were added triethylamine (1.5 mL, 10.78 mmol), 4-dimethylaminopyridine (176 mg, 1.44 mmol) followed by diethylcarbamoyl chloride (0.81 mL, 8.62 mmol) in 5 mL of methylene chloride), added over a 10 minute period. The addition of each of the last three reagents was repeated twice two hours apart and then the mixture was stirred at room temperature overnight. The clear dark red-brown solution was washed with water (3×150 mL), saturated sodium bicarbonate solution and again with water. The organic phase was dried (Na2SO4), filtered and evaporated to dryness in vacuo. The tan residue was recrystallized from methylene chloride/ether to yield the title compound (2.04 g, 92.1%), mp 220°-221° C. (d). IR (KBr): 1738, 1520, 1260 cm-1. NMR (CDCl3): δ 1.24 and 1.28 [two t, J=7 Hz, total 6H, N(CH2CH3)2 ], 2.90 (s, 3H, 1-CH3), 3.20-3.80 (m, 4H, N(CH2CH3)2), 4.03 (s, 6H, 5,6-OCH3), 7.24 (s, 1H, 5- or 8-H), 7.28 (s, 1H, 5- or 8-H); MS (DCI): 364 (MH)+

reactant | 3-hydroxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline | 7.19 mmol, 1.90 g | OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)C | C12H12N2O5
reactant | triethylamine | 10.78 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | diethylcarbamoyl chloride | 8.62 mmol, 0.81 mL | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.44 mmol, 176 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-Diethylcarbamyloxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline | 2.04 g, 92.1% | C(C)N(C(=O)OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)C)CC | C17H21N3O6
